US05260051
Preparation of Octyl Lactate by Direct Esterification
A 2 liter one neck round bottom flask equipped with a Dean Stark trap, condenser and nitrogen, inlet outlet was charged with 150.0 g (1.66 moles) lactic acid, 293.0 g (2.25 moles) octyl alcohol, 6 ml sulfuric acid and 500 ml toluene. Mixture was heated to 130° for 2.5 hours and water was collected as the reaction proceeded. The acid was neutralized by washing three times with 50 ml saturated sodium bicarbonate solution. Approximately 50 ml ether was needed to break the emulsion. The organic layer was collected and dried over magnesium sulfate. Octyl lactate was distilled under high vacuum to yield 119.85 g (35.6% yield) of clear colorless liquid. According to GC the product is 96.2% pure.

reactant | lactic acid | 1.66 moles, 150.0 g | C(C(O)C)(=O)O | C3H6O3
reactant | octyl alcohol | 2.25 moles, 293.0 g | C(CCCCCCC)O | C8H18O
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | Octyl Lactate | 119.85 g, 35.6% yield | C(C(O)C)(=O)OCCCCCCCC | C11H22O3
